US05057528
N-[4-([1-(4-Amino-2-pyridyl)piperidin-4-yl]methoxy)phenyl]methanesulphonamide
A solution of N-[4-([1-(4-nitro-2-pyridyl)piperidin-4-yl]methoxy)phenyl]methanesulphonamide (see Preparation 5) (140 mg) in ethanol (50 ml) was hydrogenated at room temperature and 3.5 bar in the presence of 5% palladium on carbon until the required amount of hydrogen had been absorbed. The catalyst was filtered off and the filtrate was evaporated to give the product (120 mg), m.p. 213°-214° (from ethyl acetate/methanol).

reactant | N-[4-([1-(4-nitro-2-pyridyl)piperidin-4-yl]methoxy)phenyl]methanesulphonamide | 140 mg | [N+](=O)([O-])C1=CC(=NC=C1)N1CCC(CC1)COC1=CC=C(C=C1)NS(=O)(=O)C | C18H22N4O5S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-[4-([1-(4-Amino-2-pyridyl)piperidin-4-yl]methoxy)phenyl]methanesulphonamide | 120 mg | NC1=CC(=NC=C1)N1CCC(CC1)COC1=CC=C(C=C1)NS(=O)(=O)C | C18H24N4O3S
